US08048902B2
Following the procedure described in Example 17, Step 2, {3-methyl-5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-isoxazol-4-yl}-carbamic acid 1-(2-chloro-phenyl)-ethyl ester, (3-bromo-phenyl)-acetic acid ethyl ester, and (1,1′-bis(diphenylphosphino)ferrocene)-dichloropalladium(II) were reacted to provide (4′-{4-[1-(2-Chloro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-biphenyl-3-yl)-acetic acid ethyl ester, which was hydrolyzed to the acid as described in Example 17, Step 3.

reactant | {3-methyl-5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-isoxazol-4-yl}-carbamic acid 1-(2-chloro-phenyl)-ethyl ester | ClC1=C(C=CC=C1)C(C)OC(NC=1C(=NOC1C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C)=O | C25H28BClN2O5
reactant | (3-bromo-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC=C1)Br)=O | C10H11BrO2
catalyst | (1,1′-bis(diphenylphosphino)ferrocene)-dichloropalladium(II) | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | (4′-{4-[1-(2-Chloro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-biphenyl-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1C=C(C=CC1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC(=O)OC(C)C1=C(C=CC=C1)Cl)=O | C29H27ClN2O5
